data/mechanisms/records/IMS8-EQ8.20b.json
{"mechanism_id": "IMS8-EQ8.20b", "species": [{"species_id": "phenylethanol_molecular_ion", "mapped_smiles": "[C:4]1(=[CH:5][CH:6]=[CH:7][CH:9][CH+:10]1)[CH2:3][CH2:1][O:2][1H:8]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "toluene_radical_cation", "mapped_smiles": "[C:4]1(=[CH:5][CH:6]=[CH:7][CH:9][CH+:10]1)[CH2:3][1H:8]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "formaldehyde_neutral", "mapped_smiles": "[CH2:1]=[O:2]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["phenylethanol_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["toluene_radical_cation", "formaldehyde_neutral"]}], "steps": [{"step_id": "step_rH_four_membered_formaldehyde_loss", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 8]}, "target": {"type": "bond", "atom_maps": [3, 8]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [1, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_20b", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_four_membered_formaldehyde_loss", "support_type": "contradicted", "locator": {"page": 152, "equation": "8.20", "section": "8.x Transition-state structure / ring size of the rearrangement. Equation 8.20 branch (b) -- reaction arrow drawn CROSSED OUT."}, "confidence": 0.8, "curator_note": "Equation 8.20, DISFAVORED branch (b): the reaction arrow leading FROM the 2-phenylethanol molecular ion TO this branch is drawn CROSSED OUT (a large X over the arrow next to the label '(b)'). This four-membered transition state (ring atoms O2-C1-C3 plus the migrating H8) would transfer the O-H hydrogen H8 directly to the BENZYLIC carbon C3 and cleave C1-C3, giving the MORE-STABLE toluene radical cation (C7H8+., m/z 92) plus neutral formaldehyde. The book rejects it: four- and three-membered transition-state rings are disfavored (text, same page), so despite the greater product stability the path does not compete with branch (a). Encoded with support_type=contradicted and peak status=rejected. ARC COUNT (convention D): the page draws a four-pointed 'bowtie'/star of roughly four fishhook (half-arrow) arcs inside the small four-membered TS (the O-H bond -> new C3-H bond, and the C1-C3 sigma -> C1=O2 carbonyl). Book draws ~4 fishhook arc(s); none is an implicit hook (4 single-electron fishhooks = the 2 encoded double-barbed 2e moves paired up). ENCODING: move<1> O2-H8 sigma -> new C3-H8 bond (H8 to the benzylic carbon, making the ring methyl of toluene); move<2> the C1-C3 sigma -> the new C1=O2 carbonyl pi (expelling neutral formaldehyde). CONVENTION C: the aromatic ring is NOT involved in this branch and rides through UNCHANGED; the delocalized ring radical cation is localized in ONE Kekule/distonic form (odd electron on C9, formal + on C10) consistently in precursor and product, so +. is a spectator. CONVENTION F: no m/z or % printed; observed_mz 92.0621 is the curator-computed monoisotopic m/z of C7H8+., status 'rejected', detected=false, relative_intensity omitted."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI (branch not observed)", "electron_energy_ev": 70.0, "precursor_mz": 122.0726, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_92_toluene", "species_id": "toluene_radical_cation", "step_id": "step_rH_four_membered_formaldehyde_loss", "observed_mz": 92.0621, "hydrogen_shift": 1, "isotope_offset": 0, "status": "rejected", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
